US04518607
A solution of 1-[4-(4-chlorophenyl)-2-(4-aminophenylthio)-n-butyl]imidazole (680 mg) and 1 ml of ethyl)isothiocyanate in 20 ml of tetrahydrofuran was heated overnight under gentle reflux. The solvent was then evaporated and the residue chromatographed on silica gel eluting with 2.2% water in ethyl acetate to give 1-[4-(4-chlorophenyl)-2-(4-ethylaminothiocarbonylaminophenylthio)-n-butyl]imidazole.

reactant | 1-[4-(4-chlorophenyl)-2-(4-aminophenylthio)-n-butyl]imidazole | 680 mg | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)SC1=CC=C(C=C1)N | C19H20ClN3S
reactant | isothiocyanate | [N-]=C=S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[4-(4-chlorophenyl)-2-(4-ethylaminothiocarbonylaminophenylthio)-n-butyl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)SC1=CC=C(C=C1)NC(=S)NCC | C22H25ClN4S2
